US06140100
A 500 mL round bottomed flask equipped with a reflux condenser and a magnetic stirrer was charged with 15.72 g of 2-iodo-L-phenylalanine tert-butyl ester-benzophenone imine (86% ee) and 165 mL of 6 N aqueous HCl. The mixture was heated at reflux with stirring for 4 h and cooled to RT to afford a mixture of white crystalline solid and an immicible organic phase (benzophenone). The mixture was partitioned between water (100 mL) and ethyl ether (70 mL). The aqueous phase was separated, washed with four additional 70 mL portions of ether and concentrated in vacuo to dryness to give 9.5 g (94%) of 2-iodo-L-phenylalanine HCl as a fluffy white solid, m.p. 240° C. (dec).

reactant | 2-iodo-L-phenylalanine tert-butyl ester benzophenone imine | 15.72 g | C(C)(C)(C)OC([C@@H](N)CC1=C(C=CC=C1)I)=O.C(C1=CC=CC=C1)(C1=CC=CC=C1)=N
reactant | HCl | 6 N, 165 mL | Cl | ClH
reactant | benzophenone | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
product | 2-iodo-L-phenylalanine HCl | 9.5 g, 94% | Cl.IC1=C(C[C@H](N)C(=O)O)C=CC=C1 | InChI=1S/C9H10INO2.ClH/c10-7-4-2-1-3-6(7)5-8(11)9(12)13;/h1-4,8H,5,11H2,(H,12,13);1H/t8-;/m0./s1
